US07939536B2
c: Synthesis of 5-[(4-aminophenyl)acetylamino]-3-(4-fluorophenyl)-4-(4-pyrimidinyl)isoxazole
To 59 mg of 5-[(4-t-butoxycarbonylaminophenyl)acetylamino]-3-(4-fluorophenyl)-4-(4-pyrimidinyl)isoxazole, 1 mL of TFA was added under cooling with ice, and the temperature was raised to room temperature, followed by 20 minutes' stirring. The reaction solution was neutralized with saturated aqueous sodium hydrogencarbonate solution under cooling with ice, and extracted with chloroform. The chloroform extract was dried over anhydrous magnesium sulfate and removed of the solvent by distillation under reduced pressure. The residue was washed with diethylether-hexane to provide 24 mg (yield: 51%) of the title compound.

reactant | 5-[(4-t-butoxycarbonylaminophenyl)acetylamino]-3-(4-fluorophenyl)-4-(4-pyrimidinyl)isoxazole | 59 mg | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)NC1=C(C(=NO1)C1=CC=C(C=C1)F)C1=NC=NC=C1 | C26H24FN5O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 5-[(4-aminophenyl)acetylamino]-3-(4-fluorophenyl)-4-(4-pyrimidinyl)isoxazole | 24 mg, yield: 51% | NC1=CC=C(C=C1)CC(=O)NC1=C(C(=NO1)C1=CC=C(C=C1)F)C1=NC=NC=C1 | C21H16FN5O2
